Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
Foley placement ___ 
 
History of Present Illness:
 ___ yo M with HTN, vascular dementia,
sleep apnea, who presents with confusion and bradycardia. Unsure
when symptoms started, confused. Unable to relay additional
history. 

In the ED, initial vitals:  96.8 40 147/99 16 94% 4L NC 

- Exam notable for:  Neuro/psych: deficit in recall and
attention, failed serial 7s and 3s, oriented to person, place 
and
season.

- Labs notable for:  Unremarkable CBC, chem panel. UA with
hematuria without pyuria or nitrites. Trop negative x2. LFTs at
___ notable for Tbili of 1.42, otherwise unremarkable. 

- Imaging notable for:  
___:
--------
CTH
IMPRESSION:
1. No acute intracranial abnormality on noncontrast head CT.
Specifically no large territory infarct or intracranial
hemorrhage.
2. Small chronic lacunar infarcts and multiple subcortical areas
of low-density likely sequela of chronic small vessel disease.
3. Small cutaneous nodules at the skull vertex which may
represent nevi. Clinical correlation is recommended.

CXR:
No acute CP abnormalities

 
Past Medical History:
Hypercholesterolemia 
Prostatic hypertrophy, benign 
Sleep apnea 
Hypertension, essential 
Colonic adenoma 
Obesity 
Hypotestosteronism 
Erectile dysfunction 
CKD (chronic kidney disease) stage 3, GFR ___ ml/min 
Cognitive decline 
Impaired glucose tolerance 
Cerebrovascular accident (CVA) 
 
Social History:
___
Family History:
Unable to obtain.
 
Physical Exam:
ON ADMISSION: 
VITALS:  97.7 PO ___ 17 96 3L
GENERAL: Confused, no acute distress, responsive to some
questions intermittently  
HEENT: Normocephalic, atraumatic. EOMI, PERRL
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. No JVD.  
LUNGS: CTABL. No wheezes, rhonchi or rales.
BACK: no CVA tenderness.  
ABDOMEN: Obese, soft, nontender, nondistended, +BS 
EXTREMITIES: no cyanosis, clubbing, or edema   
NEUROLOGIC: AAOx1 (time), impaired attention, arousable to 
verbal
stimuli, CN2-12 intact, ___ strength througout. Normal 
sensation.
Gait not assessed.

ON DISCHARGE: 
VITALS: 97.8 PO 168/89 R Lying 72 20 94 Ra 
GENERAL: awake, alert, no acute distress
HEENT: Normocephalic, atraumatic. EOMI, PERRL
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. No JVD.  
LUNGS: CTABL. No wheezes rales or ronchi
BACK: no CVA tenderness.  
ABDOMEN: Obese, soft, nontender, nondistended, normoactive bowel
sounds. 
GU: foley in place, pink output without frank clots
EXTREMITIES: no cyanosis, clubbing, or edema   
NEUROLOGIC: oriented to season, impaired attention,
CN2-12 intact, ___ strength throughout.

 
Pertinent Results:
ON ADMISSION: 
___ 08:32AM BLOOD WBC-8.5 RBC-4.76 Hgb-14.5 Hct-44.8 MCV-94 
MCH-30.5 MCHC-32.4 RDW-12.9 RDWSD-44.3 Plt ___
___ 08:32AM BLOOD Plt ___
___ 08:29PM BLOOD Glucose-91 UreaN-15 Creat-0.9 Na-139 
K-4.3 Cl-103 HCO3-22 AnGap-14
___ 08:29PM BLOOD Calcium-9.2 Phos-3.1 Mg-2.3

INTERIM LABS: 
___ 06:05AM BLOOD Glucose-136* UreaN-21* Creat-1.4* Na-144 
K-4.5 Cl-106 HCO3-26 AnGap-12
___ 05:55AM BLOOD Glucose-122* UreaN-18 Creat-1.3* Na-146 
K-4.5 Cl-109* HCO3-25 AnGap-12

___ 05:26AM URINE Color-RED* Appear-Hazy* Sp ___
___ 05:26AM URINE RBC->182* WBC-0 Bacteri-NONE Yeast-NONE 
Epi-2
___ 05:26AM URINE CastHy-13*

Time Taken Not Noted     Log-In Date/Time: ___ 5:26 am
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

LABS PRIOR TO DISCHARGE: 
___ 06:15AM BLOOD WBC-6.5 RBC-4.13* Hgb-13.0* Hct-39.5* 
MCV-96 MCH-31.5 MCHC-32.9 RDW-13.0 RDWSD-45.1 Plt ___
___ 06:15AM BLOOD Glucose-137* UreaN-15 Creat-1.1 Na-147 
K-4.6 Cl-109* HCO3-23 AnGap-15
___ 06:15AM BLOOD Calcium-9.3 Phos-2.7 Mg-2.0

CT A/P ___: 
1. Apparent small soft tissue lesion along the posterior bladder 
wall is 
incompletely assessed on this exam.  No renal calculi. 
2. Please note that most of the liver is not visualized on the 
contrast 
enhanced study and evaluation is limited due to patient's 
inability to 
cooperate with the exam.  Within these limitations, no acute CT 
findings in 
the abdomen or pelvis. 

CHEST X-RAY ___: 
Lungs are clear.  Heart size is normal.  There is no pleural 
effusion.  No 
pneumothorax is seen. 
  

DISCHARGE LABS
___ 06:15AM BLOOD WBC-6.5 RBC-4.13* Hgb-13.0* Hct-39.5* 
MCV-96 MCH-31.5 MCHC-32.9 RDW-13.0 RDWSD-45.1 Plt ___
___ 06:15AM BLOOD Plt ___
___ 06:15AM BLOOD Glucose-137* UreaN-15 Creat-1.1 Na-147 
K-4.6 Cl-109* HCO3-23 AnGap-15
___ 06:15AM BLOOD Calcium-9.3 Phos-2.7 Mg-2.___ year old man with PMH vascular dementia, HTN, sleep apnea who
presents with bradycardia and confusion. Problems addressed 
during this hospitalization are as follows:

# Asymptomatic bradycardia: 
Presented with HR ___, found incidentally while getting routine 
EKG in outpatient setting. Reassuring EKG with sinus rhythm and 
no evidence of heart block. Discontinued home atenolol. HR 
remained stable 60-90s throughout admission, asymptomatic. 

#Vascular dementia:
Chronic. Followed in cognitive neurology outpatient clinic. Per
most recent office visit ___ longstanding and worsening, at
that time celexa dose was increased, sinemet continued. No
evidence of seizure, stroke, or infectious etiology this 
admission. Per discussion with wife, patient remained at his 
baseline mental status during admission, slept most of the day, 
AAOx1-2. Continued home memantine, citalopram. Held hold home 
divalproex, has not been refilling prescriptions. 

# Hematuria:
Longstanding prior to admission. Etiology most likely related to 
small soft tissue lesion along posterior bladder wall seen in CT 
A/P. Differential includes prostatic bleeding, bleeding from 
overdistention of bladder, or undiagnosed bladder mass. 
Discharged with foley catheter, will remove in outpatient 
setting after voiding trial. Will f/u with urology for further 
evaluation and potential cystoscopy. 

# Hypercholesterolemia:
continued home atorvastatin

# Hx of CVA:
continued home clopidogrel, ASA

# Hypertension, essential:
continued home lisinopril held home atenolol in setting of 
bradycardia as above.

# CKD (chronic kidney disease) stage 3, GFR ___ ml/min:
Cr 1.1-1.4 during admission. ___ Cr 0.9-1.0; 
___ Cr 1.6. ___ most likely prerenal from 
poor PO intake, improved at time of discharge.

TRANSITIONAL ISSUES:
====================
[ ] please check BMP 1 week after discharge to monitor renal 
function
[ ] please consider uptitration of celexa for depression 
management
[ ] Foley should remain in place until ___ until trial of void 
can be considered, follow up with urology for cystoscopy 

I have seen and examined Mr. ___, reviewed the findings, 
data, and discharge plan of care documented by Dr. ___, MD 
dated ___ and agree with the plan, except for any additional 
comments below.

___, MD, PharmD
Section of Hospital Medicine
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. Atenolol 50 mg PO DAILY 
5. Memantine 20 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1.  Memantine 10 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Citalopram 20 mg PO DAILY  
5.  Clopidogrel 75 mg PO DAILY  
6.  Lisinopril 5 mg PO DAILY  
7.Outpatient Lab Work
Date: ___
Indication/ICD10: stage 3 CKD N18.3
Test: basic metabolic panel
Instructions: please fax result to Dr. ___ FAX 
___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
asymptomatic bradycardia
hematuria
vascular dementia
___ on CKD

SECONDARY
HLD
HTN

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at ___.

You came to the hospital because you developed slow heart rates 
at home. We monitored your heart in the hospital and changed 
some of your home medications. You were also has blood in your 
urine at home. You were evaluated by our urology team and will 
follow-up with them in clinic after you leave the hospital.

Please continue to take your home medications and follow-up with 
your doctors as ___.

We wish you the best,
Your ___ care team
 
Followup Instructions:
___